US07608627B2
7-Chloro-N-cyclohexyl-1H-pyrrolo[2,3-c]pyridine-2-carboxamide (230 mg, 0.828 mmol), triethylamine (0.25 mL) and palladium(II)chloride (3 mg, 2 mol %) were combined in N,N-dimethylformamide (5 mL) under an atmosphere of hydrogen. The reaction mixture was heated at 60° C. for 3 h. The reaction mixture was cooled to room temperature and the catalyst was removed by filtration through a pad of diatomaceous earth and washed with ethyl acetate. Evaporation of the solvents provided crude product (169 mg, 84%) as an off-white solid. Purification by chromatography (SiO2; 0-10% methanol in methylene chloride, 1400 mL) afforded N-cyclohexyl-1H-pyrrolo[2,3-c]pyridine-2-carboxamide (101 mg, 0.414 mmol, 50%) as fine, white needles: mp 298-301° C., 1H NMR (300 MHz, CD3OD) δ 1.20-1.55 (6H, m), 1.65-2.10 (4H, m), 3.90 (1H, m), 7.21 (1H, s), 7.15 (1H, s), 7.65 (1H, d, J=5.7 Hz), 8.09 (1H, d, J=5.7 Hz), 8.77 (1H, s); ESI MS m/z 244 [C14H17N3O+H]+; HPLC (Method A) >99% (AUC), tR=13.2 min.

reactant | 7-Chloro-N-cyclohexyl-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | 0.828 mmol, 230 mg | ClC=1N=CC=C2C1NC(=C2)C(=O)NC2CCCCC2 | C14H16ClN3O
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II)chloride | 3 mg | [Pd](Cl)Cl
product | N-cyclohexyl-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | 0.414 mmol, 101 mg, 50% | C1(CCCCC1)NC(=O)C1=CC=2C(=CN=CC2)N1 | C14H17N3O
